US04675335
Methyl-10-bromodecanoate
A solution of 10-bromodecanoic acid (5 g) in methanol (60 ml) and concentrated sulphuric acid (3 drops) was refluxed for 20 hours.

reactant | 10-bromodecanoic acid | 5 g | BrCCCCCCCCCC(=O)O | C10H19BrO2
reactant | methanol | 60 ml | CO | CH4O
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl-10-bromodecanoate | COC(CCCCCCCCCBr)=O | C11H21BrO2
